US04315858
A mixture of 11.5 g (50 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 200 ml of acetic acid, and 10.5 ml (110 mmol) of acetic anhydride is heated at reflux for 4.5 hrs. The mixture is cooled and diluted with 150 ml of ether. The solid is filtered, washed with ether, and dried at 60° to give 13.6 g of 6-[4-(acetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp>260°.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 50 mmol, 11.5 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 110 mmol, 10.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 150 ml | CCOCC | C4H10O
product | 6-[4-(acetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 13.6 g | C(C)(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C14H12N2O4
